US04895671
NaOH (58.4 g) was added to a solution of 5-ethoxy-2-(4-octyloxyphenyl)pyrimidine (48 g) dissolved in diethylene glycol (300 ml), followed by keeping the mixture at 220° C. for 3 hours, allowing the resulting material to cool down, adding water and acetic acid, filtering off deposited crystals, and recrystallizing from ethanol to obtain 5-hydroxy-2-(4-octyloxyphenyl)pyrimidine (29 g, m.p.: 131.2°-132.5° C.)

reactant | NaOH | 58.4 g | [OH-].[Na+]
reactant | 5-ethoxy-2-(4-octyloxyphenyl)pyrimidine | 48 g | C(C)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCCCC | C20H28N2O2
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | diethylene glycol | 300 ml | C(COCCO)O | C4H10O3
product | 5-hydroxy-2-(4-octyloxyphenyl)pyrimidine | 29 g | OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCCCCCC | C18H24N2O2
